US07157447B2
(4-Fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl)methanamine hydrochloride.
A solution of intermediate 58, 4-fluoro-2-(2-methyl-2H-tetrazol-5-yl)-benzonitrile, (330 mg, 1.62 mmol) in ethanol (15 mL) was mixed with 6N HCl (1 mL) and 10% Pd—C (200 mg) under nitrogen. The mixture was then stirred under hydrogen (1 atm) for 3 hrs. After removing the catalyst, the filtrate was concentrated in vacuo to provide 360 mg (Yield 91%) of the title compound as an off-white solid; 1H NMR (500 MHz, DMSO-D6) δ ppm: 4.42 (2H, d, J=2.75 Hz) 4.49 (3H, s) 7.48–7.56 (1H, m) 7.78 (1H, dd, J=8.7, 5.7 Hz) 7.86 (1H, dd, J=9.8, 2.8 Hz) 8.45 (3H, s); LC/MS m/z 208.

reactant | 4-fluoro-2-(2-methyl-2H-tetrazol-5-yl)-benzonitrile | 1.62 mmol, 330 mg | FC1=CC(=C(C#N)C=C1)C=1N=NN(N1)C | C9H6FN5
reactant | HCl | 6N, 1 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | (4-Fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl)methanamine hydrochloride | 360 mg, Yield 91% | Cl.FC1=CC(=C(C=C1)CN)C=1N=NN(N1)C | InChI=1S/C9H10FN5.ClH/c1-15-13-9(12-14-15)8-4-7(10)3-2-6(8)5-11;/h2-4H,5,11H2,1H3;1H
